US05208224
N-[[[2,6-Bis(1-methylethyl)phenyl]amino]carbonyl]phosphoramidic Acid, Diphenyl Ester
To a suspension of diphenyl phosphoramidate (2.0 g, 8.0 mmol) in tetrahydrofuran (20 mL) at 0° C. is added 2,6-diisopropylphenyl isocyanate (1.7 mL, 8.0 mmol). Sodium hydride (0.32 g, 8.0 mmol) is then added portionwise over 15 minutes. The mixture is allowed to warm to room temperature and stirred for 6 hours. The mixture is partitioned between ethyl acetate and water and the aqueous phase is extracted three times with ethyl acetate. The combined organic extracts are washed with brine, dried over magnesium sulfate, and concentrated. Flash chromatography (7:3 hexane/ethyl acetate) affords 2.4 g of a white solid which is recrystallized (ethyl acetate/hexane) to afford 1.6 g of the title compound as a white solid; mp 171°-175° C.

reactant | diphenyl phosphoramidate | 8.0 mmol, 2.0 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N | C12H12NO3P
reactant | 2,6-diisopropylphenyl isocyanate | 8.0 mmol, 1.7 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | Sodium hydride | 8.0 mmol, 0.32 g | [H-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[[[2,6-Bis(1-methylethyl)phenyl]amino]carbonyl]phosphoramidic Acid, Diphenyl Ester | 2.4 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C25H29N2O4P
